US08541575B2
A mixture of 4-bromo-3-(2,6-difluoro-3-nitrophenyl)-1-methyl-1H-pyrazole and its regioisomer 4-bromo-5-(2,6-difluoro-3-nitrophenyl)-1-methyl-1H-pyrazole (0.35 g, 1.1 mmol), powdered zinc (0.39 g, 6 mmol) and ammonium chloride (0.6 g, 11 mmol) in dioxane (6 mL) and water (2 mL) were refluxed under good stirring for 3 h. After cooling, the mixture was filtered and the filtrate was concentrated. The residue was taken up with dichloromethane, washed with saturated aqueous solution of sodium hydrogen carbonate and water, dried over anhydrous sodium sulfate and concentrated. The crude mixture of 3-(4-bromo-1-methyl-1H-pyrazol-3-yl)-2,4-difluoroaniline and its regioisomer 3-(4-bromo-1-methyl-1H-pyrazol-5-yl)-2,4-difluoroaniline was obtained as a brownish solid (0.33 g, 95%).

reactant | 4-bromo-3-(2,6-difluoro-3-nitrophenyl)-1-methyl-1H-pyrazole | BrC=1C(=NN(C1)C)C1=C(C(=CC=C1F)[N+](=O)[O-])F | C10H6BrF2N3O2
reactant | 4-bromo-5-(2,6-difluoro-3-nitrophenyl)-1-methyl-1H-pyrazole | 1.1 mmol, 0.35 g | BrC=1C=NN(C1C1=C(C(=CC=C1F)[N+](=O)[O-])F)C | C10H6BrF2N3O2
reactant | ammonium chloride | 11 mmol, 0.6 g | [Cl-].[NH4+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
catalyst | zinc | 6 mmol, 0.39 g | [Zn] | Zn
product | 3-(4-bromo-1-methyl-1H-pyrazol-5-yl)-2,4-difluoroaniline | BrC=1C=NN(C1C=1C(=C(N)C=CC1F)F)C | C10H8BrF2N3
